US08349846B2
3-Bromo-2-[(E)-2-{2-[2-(dimethylamino)ethoxy]-3-methoxyphenyl}vinyl]-4H-pyrido-[1,2-a]pyrimidin-4-one
The title compound was prepared from 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (1.021 g, 4.18 mmol) and 2-[2-(dimethylamino)ethoxy]-3-methoxybenzaldehyde (0.969 g, 5.011 mmol) in the presence of sodium ethoxide (0.426 g, 6.27 mmol) in absolute ethanol (25 ml) as described in Intermediate 1 to give 649 mg of the product as a light yellow solid; 1H NMR (300 MHz, CDCl3) δ 2.39 (s, 6H), 2.82 (s, 2H), 3.87 (s, 3H), 4.12 (s, 2H), 6.91 (d, J=7.5 Hz, 1H), 7.04-7.10 (m, 2H), 7.28-7.34 (m, 1H), 7.66-7.71 (m, 3H), 8.40 (d, J=15.0 Hz, 1H), 8.95 (d, J=7.2 Hz, 1H).

reactant | 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 4.18 mmol, 1.021 g | BrC1=C(N=C2N(C1=O)C=CC=C2)C | C9H7BrN2O
reactant | 2-[2-(dimethylamino)ethoxy]-3-methoxybenzaldehyde | 5.011 mmol, 0.969 g | CN(CCOC1=C(C=O)C=CC=C1OC)C | C12H17NO3
reactant | sodium ethoxide | 6.27 mmol, 0.426 g | [O-]CC.[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-Bromo-2-[(E)-2-{2-[2-(dimethylamino)ethoxy]-3-methoxyphenyl}vinyl]-4H-pyrido-[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C=CC=C2)\C=C\C2=C(C(=CC=C2)OC)OCCN(C)C | C21H22BrN3O3
